US09340549B2
Synthesis of (S)-3-(4-(2-aminopyrimidin-5-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one
5-Iodopyrimidin-2-amine (84 mg, 0.381 mmol, commercially available from Sigma-Aldrich, Milwaukee, Wis.), sodium carbonate (2M, 254 μL, 0.509 mmol), (S)-5,5-dimethyl-4-phenyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)oxazolidin-2-one (100 mg, 0.254 mmol), and dichloro(1,1-bis(diphenylphosphinoferrocene))palladium (II) (20.76 mg, 0.025 mmol, commercially available from Sigma-Aldrich, Milwaukee, Wis.) were combined in dioxane (848 μL) and stirred at 130° C. for 2 hours. LC-MS indicated complete conversion to the desired product. The reaction mixture was passed through a syringe filter, and the material thus obtained was purified by reverse-phase preparative HPLC using 0.1% TFA in ACN/H2O, gradient 15% to 90% over 20 minutes to provide (S)-3-(4-(2-aminopyrimidin-5-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one as a tan solid. 1H NMR (500 MHz, DMSO-d6) δ 8.50 (s, 2H), 7.53 (s, 4H), 7.34-7.41 (m, 2H), 7.22-7.33 (m, 3H), 6.70 (s, 2H), 5.47 (s, 1H), 1.64 (s, 3H), 0.91 (s, 3H). m/z (ESI) 361.2 (M+H)+.

reactant | 5-Iodopyrimidin-2-amine | IC=1C=NC(=NC1)N | C4H4IN3
reactant | sodium carbonate | 0.509 mmol, 2M, 254 μL | C([O-])([O-])=O.[Na+].[Na+]
reactant | (S)-5,5-dimethyl-4-phenyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)oxazolidin-2-one | 0.254 mmol, 100 mg | CC1([C@@H](N(C(O1)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)C | C23H28BNO4
solvent | dioxane | 848 μL | O1CCOCC1 | C4H8O2
product | (S)-3-(4-(2-aminopyrimidin-5-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | NC1=NC=C(C=N1)C1=CC=C(C=C1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O | C21H20N4O2
